US04000275
3-Nitro-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)-one is prepared with 2,5,6-trichlorobenzimidazole and 4-nitroanthraniloyl chloride hydrochloride.

reactant | 2,5,6-trichlorobenzimidazole | ClC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3Cl3N2
reactant | 4-nitroanthraniloyl chloride hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C(C(=O)Cl)=CC1)N
product | 3-Nitro-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)-one | [N+](=O)([O-])C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)Cl)Cl)=O | C14H6Cl2N4O3
